US07977344B2
N2-Butyl-8-(methyloxy)-9-{2-[(3S)-tetrahydro-3-furanyl]ethyl}-9H-Purine-2,6-diamine
Prepared similarly to Intermediate 215 from N2-butyl-8-(methyloxy)-3H-purine-2,6-diamine trifluoroacetate and (3R)-3-(2-Bromoethyl)tetrahydrofuran.

reactant | N2-butyl-8-(methyloxy)-3H-purine-2,6-diamine trifluoroacetate | FC(C(=O)O)(F)F.C(CCC)NC1=NC(=C2N=C(N=C2N1)OC)N
reactant | (3R)-3-(2-Bromoethyl)tetrahydrofuran | BrCC[C@@H]1COCC1 | C6H11BrO
product | N2-Butyl-8-(methyloxy)-9-{2-[(3S)-tetrahydro-3-furanyl]ethyl}-9H-Purine-2,6-diamine | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CC[C@@H]1COCC1)OC)N | C16H26N6O2
